US03968116
5-(Methylsulfonyl)-3-nitro-2-aminopyridine is reacted with 2,2-difluoro-3,4-dichlorobutyric anhydride to obtain 5-(methylsulfonyl)-3-nitro-2-(2,2-difluoro-3,4-dichlorobutyramido)-pyridine which when hydrogenated yields 6-(methylsulfonyl)-1-hydroxy-2-(1,1-difluoro-2,3-dichloro-n-propyl)-1H-imidazo(4,5-b)-pyridine.

reactant | 5-(Methylsulfonyl)-3-nitro-2-aminopyridine | CS(=O)(=O)C=1C=C(C(=NC1)N)[N+](=O)[O-] | C6H7N3O4S
reactant | 2,2-difluoro-3,4-dichlorobutyric anhydride | FC(C(=O)OC(C(C(CCl)Cl)(F)F)=O)(C(CCl)Cl)F | C8H6Cl4F4O3
product | 5-(methylsulfonyl)-3-nitro-2-(2,2-difluoro-3,4-dichlorobutyramido)-pyridine | CS(=O)(=O)C=1C=C(C(=NC1)NC(C(C(CCl)Cl)(F)F)=O)[N+](=O)[O-] | C10H9Cl2F2N3O5S
